US09376449B2
To 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride (167 mg) were added tetrahydrofuran (2.00 mL), triethylamine (0.246 mL), and 1,1′-carbonyldiimidazole (143 mg), followed by stirring at room temperature for 15 minutes. Then, methylamine (2 M tetrahydrofuran solution, 1.77 mL) was added thereto, followed by warming to 50° C. and stirring for 1 hour. The reaction mixture was cooled to room temperature, silica gel was added thereto, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 20:1) to obtain 5-methoxy-N-methyl-3-{2-[(methylcarbamoyl)amino]ethyl}-1H-indole-2-carboxamide (144 mg) as a white solid.

reactant | 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride | 167 mg | Cl.NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC
reactant | tetrahydrofuran | 2.00 mL | O1CCCC1 | C4H8O
reactant | 1,1′-carbonyldiimidazole | 143 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 2 M, 1.77 mL | CN | CH5N
solvent | triethylamine | 0.246 mL | C(C)N(CC)CC | C6H15N
product | 5-methoxy-N-methyl-3-{2-[(methylcarbamoyl)amino]ethyl}-1H-indole-2-carboxamide | 144 mg | COC=1C=C2C(=C(NC2=CC1)C(=O)NC)CCNC(NC)=O | C15H20N4O3
